US09034866B2
Synthesis of 9-bromo-8-fluoro-5,6-dihydro-4H-4,6-methanobenzo[3,4]cyclohepta[1,2-b]thiophene-2-carboxamide
A pressure tube containing a solution of ethyl 9-bromo-8-fluoro-5,6-dihydro-4H-4,6-methanobenzo[3,4]cyclohepta[1,2-b]thiophene-2-carboxylate (32 mg, 0.08 mmol) in methanolic ammonia (5 mL of 7.0M ammonia in methanol) was warmed to 45° C. for two weeks. Evaporation of the reaction mixture furnished the title compound (31 mg, 0.08 mmol, 100%) as a pale brown solid: 1H NMR (500 MHz, d4-methanol) delta 1.61-1.68 (m, 2H), 2.93-3.02 (m, 2H), 3.59 (td, J=7.33, 4.26 Hz, 1H), 3.67 (td, J=8.04, 3.78 Hz, 1H), 7.05 (d, J=9.46 Hz, 1H), 8.18 (d, J=6.94 Hz, 1H), 8.39 (s, 1H); M+1=352/354.

reactant | ethyl 9-bromo-8-fluoro-5,6-dihydro-4H-4,6-methanobenzo[3,4]cyclohepta[1,2-b]thiophene-2-carboxylate | 0.08 mmol, 32 mg | BrC=1C(=CC2=C(C3=C(SC(=C3)C(=O)OCC)C3CC2C3)C1)F | C17H14BrFO2S
reactant | ammonia | 7.0M, 5 mL | N | H3N
product | 9-bromo-8-fluoro-5,6-dihydro-4H-4,6-methanobenzo[3,4]cyclohepta[1,2-b]thiophene-2-carboxamide | 0.08 mmol, 31 mg, 100% | BrC=1C(=CC2=C(C3=C(SC(=C3)C(=O)N)C3CC2C3)C1)F | C15H11BrFNOS
